US08183381B2
Step 2: (1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol
The compound was synthesized using ethyl 1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate and sodium borohydride in a manner similar to that described in Journal of Medicinal Chemistry, 1996, 29, 341.

reactant | ethyl 1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=C(C(=C1)C(=O)OCC)C(F)(F)F | C18H22F3N5O2
reactant | sodium borohydride | [BH4-].[Na+]
product | (1-(1-(5-Ethylpyrimidin-2-yl)piperidin-4-yl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1N=C(C(=C1)CO)C(F)(F)F | C16H20F3N5O
